US05087635
Alpha-(2-chloro-6-fluorophenyl)-alpha-[2-(4-chlorophenyl)ethyl]-1,2,4-triazole-1-propanenitrile
A 3 neck 200 ml round bottom flask was charged with 2.4 gms of 60% NaH (0.048 mole, 1.2 eq.), washed twice with 25 ml of hexanes, in 40 ml of DMF. At room temperature 12.28 gms (0.04 mole, 1.0 eq.) of alpha-[2-(4-chlorophenyl)ethyl]-2-chloro-6-fluorophenylacetonitrile was added dropwise over 0.5 hour in 30 ml of DMF. Then 10.43 gms of CH2Br2 (0.60 mole, 1.5 eq.) in 20 ml of DMF was added dropwise and the reaction was stirred at room temperature for 0.5 hour after which gas liquid chromatography indicated that the reaction was complete. The reaction was quenched after 1 hour by adding 20 ml of water and 200 ml of ether which was separated. After washing with water, drying and concentrating 14.84 gms (92.9% yield) resulted which was used directly in the triazole coupling.

reactant | NaH | 0.048 mole, 2.4 gms, 1.2 eq. | [H-].[Na+]
reactant | alpha-[2-(4-chlorophenyl)ethyl]-2-chloro-6-fluorophenylacetonitrile | 0.04 mole, 12.28 gms, 1.0 eq. | ClC1=CC=C(C=C1)CCC(C#N)C1=C(C=CC=C1F)Cl | C16H12Cl2FN
reactant | CH2Br2 | 0.60 mole, 10.43 gms, 1.5 eq. | C(Br)Br | CH2Br2
reactant | triazole | N1N=NC=C1 | C2H3N3
reactant | DMF | 30 ml | CN(C)C=O | C3H7NO
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
product | Alpha-(2-chloro-6-fluorophenyl)-alpha-[2-(4-chlorophenyl)ethyl]-1,2,4-triazole-1-propanenitrile | ClC1=C(C(=CC=C1)F)C(C#N)(CN1N=CN=C1)CCC1=CC=C(C=C1)Cl | C19H15Cl2FN4
